US08012606B2
To a solution of 0.28 g (1.24 millimoles) of palladium (II) acetate in 20 ml of xylene was added 0.96 g (4.28 millimoles) of tri-tert-butylphosphine and the mixture was heated at 80° C. for 30 minutes with stirring. This solution was transferred into a solution heated at 80° C. of 9.0 g (0.024 mole) of 2,7-bis(3-pyridylamino)dibenzodioxin, 14.2 g (0.061 mole) of 3-bromobiphenyl, and 9.53 g (0.099 mole) of sodium tert-butoxide in 200 ml of xylene. The mixture was then heated up to 140° C. and heated at this temperature with stirring for 22 hours. The reaction mixture was cooled to room temperature, 200 ml of water was added, and a precipitate was separated by filtration. The mother liquor was separated into the organic and aqueous layers, the aqueous layer was washed with 200 ml of toluene, and the organic layers were combined, concentrated, and dried under reduced pressure to give 15.2 g of a crude product. The crude product was purified by silica gel column chromatography to give 5.25 g (0.0078 mole, 32.5% yield) of 2,7-bis(N-3-biphenylyl-N-3-pyridylamino)dibenzodioxin. The product showed a purity of 95.0 area % (HPLC, 254 nm). The product was purified further by sublimation; FD-MS, m/z 672 [M]+, melting point and glass transition temperature not observed.

reactant | tri-tert-butylphosphine | 4.28 millimoles, 0.96 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2,7-bis(3-pyridylamino)dibenzodioxin | 0.024 mole, 9.0 g | N1=CC(=CC=C1)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC=3C=NC=CC3)C=C1 | C22H16N4O2
reactant | 3-bromobiphenyl | 0.061 mole, 14.2 g | BrC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Br
reactant | sodium tert-butoxide | 0.099 mole, 9.53 g | CC(C)([O-])C.[Na+]
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 1.24 millimoles, 0.28 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 200 ml | O | H2O
product | 2,7-bis(N-3-biphenylyl-N-3-pyridylamino)dibenzodioxin | 0.0078 mole, 5.25 g, 32.5% yield | C1(=CC(=CC=C1)N(C=1C=NC=CC1)C1=CC2=C(OC3=C(O2)C=CC(=C3)N(C=3C=C(C=CC3)C3=CC=CC=C3)C=3C=NC=CC3)C=C1)C1=CC=CC=C1 | C46H32N4O2
